US07829715B2
A 4.26 g portion of 1,1′-carbonyldiimidazole was added to 5.00 g of (S)-1-phenyl-1,2,3,4-tetrahydroisoquinoline and 25 ml of toluene and stirred at room temperature for 30 minutes. By adding 25 ml of water thereto, the water layer was separated, the organic layer was washed with 25 ml of water, and the solvent was evaporated under a reduced pressure. A 10 ml portion of toluene was added to the residue. This solution was added dropwise at room temperature to a solution prepared by adding 1.00 g of sodium hydride to a mixture of 3.65 g of (R)-quinuclidin-3-ol, 25 ml of toluene and 5 ml of DMF and heating to 100° C., and 5 ml of toluene was further added thereto. This was heated at 110° C. for 3 hours, cooled and mixed with 25 ml of water, and the water layer was separated. This was again washed with 25 ml of water, and the organic layer was extracted with a mixture of 3.25 g of concentrated hydrochloric acid and 18 ml of water. 34 ml of EtOAc, and a mixture of 5.28 g of potassium carbonate and 14 ml of water were added to the thus obtained water layer, the thus obtained organic layer was washed with 7 ml of water, and then the solvent was evaporated under a reduced pressure to obtain solifenacin.

reactant | 1,1′-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (S)-1-phenyl-1,2,3,4-tetrahydroisoquinoline | 5.00 g | C1(=CC=CC=C1)[C@@H]1NCCC2=CC=CC=C12 | C15H15N
reactant | sodium hydride | 1.00 g | [H-].[Na+]
reactant | (R)-quinuclidin-3-ol | 3.65 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | water | 25 ml | O | H2O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 25 ml | O | H2O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | solifenacin | C=1C=CC(=CC1)[C@H]2C=3C=CC=CC3CCN2C(=O)O[C@H]4CN5CCC4CC5 | C23H26N2O2
